US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.77 g) and 1-(2-chloroethyl)piperidine hydrochloride (0.55 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-piperidinoethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.76 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, 5-hydroxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-piperidinoethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride (0.54 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.77 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.55 g | Cl.ClCCN1CCCCC1
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-piperidinoethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.76 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CCN1CCCCC1)C=1C=NC(=CC1)C(C)C | C37H45N5O2
